US07759373B2
A mixture of methyl 6-methoxymethylnicotinate (737 mg) in a 2N aqueous sodium hydroxide solution (2 ml) and methanol (15 ml) was refluxed overnight. After cooling, the reaction mixture was concentrated under reduced pressure, and the resulting residue was triturated with diethyl ether to obtain 6-methoxymethylnicotinic acid sodium salt (754 mg) as colorless powder.

reactant | methyl 6-methoxymethylnicotinate | 737 mg | COCC1=NC=C(C(=O)OC)C=C1 | C9H11NO3
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 6-methoxymethylnicotinic acid sodium salt | 754 mg | [Na+].COCC1=NC=C(C(=O)[O-])C=C1 | InChI=1S/C8H9NO3.Na/c1-12-5-7-3-2-6(4-9-7)8(10)11;/h2-4H,5H2,1H3,(H,10,11);/q;+1/p-1
